* D:\Universidad\ITBA 2022\2C 2022\Teoria de Circuitos\TP4\Cauer\LuyDami\Circuito.asc
RA1 N002 0 46250
V1 V+ 0 15
V2 0 V- 15
RB Vo N002 10000
RA2 N002 N003 191388
C22 N012 N003 4.641n
C3 N012 N006 5.623n
R1 Vo N012 1006
C21 N012 0 1n
V3 N010 0 AC 1.
R42 N006 N003 32601
R41 0 N006 4591
C N011 N010 86p
R 0 N011 68k
RA3 N001 0 46250
RB1 VoIdeal N001 10000
RA4 N001 N004 191388
C2 N009 N004 4.641n
C4 N009 N005 5.623n
R3 VoIdeal N009 1006
C5 N009 0 1n
V4 N007 0 AC 1.
R4 N005 N004 32601
R5 0 N005 4591
C6 N008 N007 1n
R6 0 N008 5883.41
XU2 N005 N001 MP_01 MP_02 VoIdeal OA_Ideal Avol=1Meg GBWP=10Meg
XU3 N008 N004 MP_03 MP_04 N004 OA_Ideal Avol=1Meg GBWP=10Meg
XU4 N011 N003 V+ V- N003 TL082
XU1 N006 N002 V+ V- Vo TL082
.ac dec 100 1000 10000000
.lib TCLib/OA_Ideal.lib
.lib TCLib/TL082.lib
.backanno
.end
